US04826847
5-Hydroxy-3-isopropylideneindoline
A mixture of 20 g. 5-hydroxyindolinone, 80 ml. acetone and 80 ml. ethanol is saturated with gaseous ammonia and heated under reflux for 3 hours. After evaporation, the reaction mixture is filtered off with suction. There are obtained 27.7 g. of the title compound (94% of theory); m.p. 235° C.

reactant | 5-hydroxyindolinone | OC=1C=C2CC(NC2=CC1)=O | C8H7NO2
reactant | acetone | CC(=O)C | C3H6O
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 5-Hydroxy-3-isopropylideneindoline | 94% | OC=1C=C2C(CNC2=CC1)=C(C)C | C11H13NO
